US07615562B2
Step C: [4-(4-Bromophenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
4-(4-Bromo-phenyl)-2-methanesulfinyl-pyrimidine (0.25 g, 0.84 mmol) and 4-amino-2,2,6,6,-tetramethylpiperidine (1 ml) were heated for 45 minutes at 130° C. Evaporation and chromatography on silicagel (EtOAc/MeOH/ammonia:95/4.5/0.5 to 90/9/1) gave the title compound as white crystals. Yield: 260 mg (78%).

reactant | 4-(4-Bromo-phenyl)-2-methanesulfinyl-pyrimidine | 0.84 mmol, 0.25 g | BrC1=CC=C(C=C1)C1=NC(=NC=C1)S(=O)C | C11H9BrN2OS
reactant | 4-amino-2,2,6,6,-tetramethylpiperidine | 1 ml | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | [4-(4-Bromophenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | BrC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C19H25BrN4
